US05780437
Benzyl-{2-[5-(2-butylpentazol-1-yl)-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl}amine
To a solution of benzyl-{2-[5-(2-butylpentazol-1-yl)-2-(3,5-dimethylphenyl)-1H-indol-3-yl]-ethyl}carbamic acid tert-butyl ester (57 mg in 3.5 mL methylene chloride) at 0° C. was added 0.12 mL anisole followed by 0.80 mL trifluoroacetic acid and the mixture stirred at 0° C. After 1.5 hours, the mixture was concentrated in vacuo and the residual acid removed by azeotrope with toluene to give the crude title compound in quantitative yield.

reactant | benzyl-{2-[5-(2-butylpentazol-1-yl)-2-(3,5-dimethylphenyl)-1H-indol-3-yl]-ethyl}carbamic acid tert-butyl ester | 3.5 mL, 57 mg | C(C)(C)(C)OC(N(CCC1=C(NC2=CC=C(C=C12)N1N(NN=N1)CCCC)C1=CC(=CC(=C1)C)C)CC1=CC=CC=C1)=O | C34H43N7O2
reactant | anisole | 0.12 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 0.80 mL | FC(C(=O)O)(F)F | C2HF3O2
product | Benzyl-{2-[5-(2-butylpentazol-1-yl)-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl}amine | quantitative yield | C(C1=CC=CC=C1)NCCC1=C(NC2=CC=C(C=C12)N1N(NN=N1)CCCC)C1=CC(=CC(=C1)C)C | C29H35N7
